data/mechanism_extracts/OrgLett/10.1021_acs.orglett.2c03774.json
{"doi": "10.1021_acs.orglett.2c03774", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical oxidative sulfoximido-oxygenation of alkenes (styrenes) using NH-sulfoximines and alcohols (MeOH) to give β-alkoxy sulfoximides without metal catalysts or external oxidants", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation: NH-sulfoximine (1a) is deprotonated to 1a' then anodically oxidized to an N-centered sulfoximidoyl radical (A); MeOH is also anodically oxidized in the presence of base to a methoxy radical. Cathode reduces 2 H+ to H2.", "key_intermediates": [{"name": "N-centered sulfoximidoyl radical (A)", "smiles": "O=S(=N[*])(c1ccccc1)c1ccccc1", "role": "reactive"}, {"name": "methoxy radical (minor HAT path)", "smiles": "[O]C", "role": "reactive"}, {"name": "benzyl/carbon radical adduct after radical addition to styrene (B)", "smiles": null, "role": "transient"}, {"name": "benzyl cation intermediate (C) from further anodic oxidation of B", "smiles": null, "role": "reactive"}, {"name": "deprotonated sulfoximine conjugate base (1a')", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, deprotonated NH-sulfoximine (1a') is oxidized to an N-centered sulfoximidoyl radical A, which adds to the styrene to give benzyl radical B; B is further oxidized at the anode to benzyl cation C, which is trapped by MeOH and deprotonated to give product 3a. At the cathode, protons are reduced to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "radical clock (cyclopropyl-substituted alkene 7)", "smiles": null, "purpose": "radical_clock", "observation": "Standard product 8 (21%) and ring-opened product 9 (64%) isolated, confirming a benzyl radical intermediate"}, {"name": "control experiment detecting sulfoximidoyl dimer 10 and radical addition adducts 11/12", "smiles": null, "purpose": "intermediate_trap_other", "observation": "Dimer 10 from N-centered sulfoximidoyl radical and adducts 11/12 of methoxy radical detected by HRMS, supporting both N-radical and MeO radical intermediates"}, {"name": "cyclic voltammetry of styrene 2a, MeOH/K3PO4, and 1a", "smiles": null, "purpose": "redox_probe", "observation": "Ep(2a)=2.07 V vs SCE; Ep(MeOH)=1.29 V; oxidation peaks of MeOH and 1a overlap and are lower than styrene, indicating anodic oxidation of 1a/MeOH occurs preferentially (reaction onset ~0.8 V)"}, {"name": "constant potential electrolysis", "smiles": null, "purpose": "redox_probe", "observation": "Reaction initiates at ~0.8 V (vs SCE), below styrene oxidation potential, indicating initiation by oxidation of 1a/MeOH rather than styrene"}], "evidence_types_used": ["radical_clock", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "A minor pathway is proposed in which an anodically generated methoxy radical performs HAT on 1a to furnish the N-centered sulfoximidoyl radical A (Scheme 5, 'minor' arrow); the major pathway goes through direct anodic oxidation of deprotonated 1a'. Initiation by alkene oxidation is ruled out based on CV (styrene oxidation potential is higher than the operating potential)."}
